US05847153
A mixture of 2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionic acid (5.0 g, 12 mmol) in tetrahydrofuran (30 mL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.3 g, 23 mmol), benzylhydroxylamine hydrochloride (2.3 g, 14 mmol), and distilled water (30 mL) is stirred overnight. The mixture is filtered to yield a white precipitate which is dissolved in chloroform (200 ml) and filtered. The filtrate is extracted with brine (100 mL) and the organic phase concentrated in vacuo, to yield N-benzyloxy-2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionamide (2.24 g, 36%). The initial filtrate from the overnight reaction is transferred to ethyl acetate and extracted with 10% hydrochloric acid, water, aqueous sodium bicarbonate, and brine, and concentrated in vacuo to also yield the title compound as a white solid.

reactant | 2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionic acid | 12 mmol, 5.0 g | COC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CS(=O)(=O)C1=CC=C(C=C1)OC | C18H20O8S2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 23 mmol, 4.3 g | Cl.CN(CCCN=C=NCC)C
reactant | benzylhydroxylamine hydrochloride | 14 mmol, 2.3 g | Cl.C(C1=CC=CC=C1)NO
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzyloxy-2-(4-methoxybenzenesulfonylmethyl)-3-(4-methoxybenzenesulfonyl)-propionamide | 2.24 g, 36% | C(C1=CC=CC=C1)ONC(C(CS(=O)(=O)C1=CC=C(C=C1)OC)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H27NO8S2
